US08212041B2
(2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)methanol
A suspension of 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline (200 mg, 585 μmol), (3-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanol (173 mg, 644 μmol), dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct (21 mg, 29 μmol), and sodium carbonate (2M; 1170 μl, 2341 μmol) in DME (2 mL) was sparged with argon for 10 min then heated to 85° C. for 6 h. Reaction then partitioned between 9:1 CHCl3/IPA (25 mL) and 5% NaHCO3 (10 mL) and aqueous further extracted with 9:1 CHCl3/IPA (2×10 mL). Combined organics dried with MgSO4 then concentrated onto dry silica under reduced pressure. Product purified on 40 g silica eluting with 0>12% of 2M NH3 in MeOH/DCM and isolated as an off white powder. MS (ESI pos. ion) m/z: 448 (MH+). Calc'd exact mass for C23H18ClN5O3: 447.

reactant | 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline | 585 μmol, 200 mg | ClC=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C16H12ClN5O2
reactant | (3-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanol | 644 μmol, 173 mg | ClC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)CO | C13H18BClO3
reactant | sodium carbonate | 2341 μmol, 2M, 1170 μl | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct | 29 μmol, 21 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | (2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)methanol | ClC1=C(C=CC(=C1)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC)CO | C23H18ClN5O3
